US04795755
A solution of methyl 5-[3-(2-[2,2,2-trifluoroethyl]guanidino)-1,2,4-triazol-1-yl]valerimidate (0.5 g.) in MeOH (5 ml.) and acethydrazide (0.17 g.) was allowed to stand at room temperature for 3 hours. The solution was evaporated to give a sticky solid which was triturated with ether/EtOH to give N-acetylamino-5-[3-(2-[2,2,2-trifluoroethyl]guanidino)-1,2,4-triazol-1-yl]valeramidine as a white solid (0.71 g.), m.p. 157°-159°.

reactant | methyl 5-[3-(2-[2,2,2-trifluoroethyl]guanidino)-1,2,4-triazol-1-yl]valerimidate | 0.5 g | FC(CN=C(NC1=NN(C=N1)CCCCC(OC)=N)N)(F)F | C11H18F3N7O
reactant | acethydrazide | 0.17 g | C(C)(=O)NN | C2H6N2O
solvent | MeOH | 5 ml | CO | CH4O
product | N-acetylamino-5-[3-(2-[2,2,2-trifluoroethyl]guanidino)-1,2,4-triazol-1-yl]valeramidine | C(C)(=O)NNC(CCCCN1N=C(N=C1)NC(=NCC(F)(F)F)N)=N | C12H20F3N9O
